US06028195
d) Phenyl N-(4,5-dimethyl-2-methoxyphenyl)carbamate
To 4,5-dimethyl-2-methoxyaniline(4.50 g, 0.03 mol), methylene chloride(100 ml) was added and phenyl chloroformate(4.80 g, 0.03 mol) was added slowly. The resulting solution was stirred for 2 hrs and thereto water(150 ml) was added, and extracted with methylene chloride and purified by column chromatography to obtain the titled compound.

reactant | 4,5-dimethyl-2-methoxyaniline | 0.03 mol, 4.50 g | CC1=CC(=C(N)C=C1C)OC | C9H13NO
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
reactant | phenyl chloroformate | 0.03 mol, 4.80 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | water | 150 ml | O | H2O
product | Phenyl N-(4,5-dimethyl-2-methoxyphenyl)carbamate | yield: 98% | CC1=CC(=C(C=C1C)NC(OC1=CC=CC=C1)=O)OC | C16H17NO3
